US08420863B2
(E)-Tert-butyl 3-hydroxy-2,2-dimethyl-3-(3-(2-(2,6,6-trimethylcyclohex-1-enyl)vinyl)phenyl)propylcarbamate (0.0809 g, 0.19 mmol) was reacted with pyridinium chlorochromate according to the method used in Example 56 except that the reaction time was 2 h, 15 min. Purification by flash chromatography (10 to 40% EtOAc-hexanes gradient) gave (E)-tert-butyl 2,2-dimethyl-3-oxo-3-(3-(2-(2,6,6-trimethylcyclohex-1-enyl)vinyl)phenyl)propylcarbamate as an oil. 1H NMR (400 MHz, CD3OD) δ 7.72 (s, 1H), 7.58 (d, J=7.6 Hz, 1H), 7.52 (d, J=8.0 Hz, 1H), 7.35 (t, J=7.6 Hz, 1H), 6.72 (dd, J=16.0, 0.8 Hz, 1H), 6.33 (d, J=16.0 Hz, 1H), 5.05 (t, J=6.0 Hz, 1H), 3.38 (d, J=6.8 Hz, 2H), 2.04 (t, J=6.4 Hz, 2H), 1.76 (s, 3H), 1.61-1.67 (m, 2H), 1.48-1.50 (m, 2H), 1.36-1.42 (m, 15H), 1.06 (s, 6H).

reactant | (E)-Tert-butyl 3-hydroxy-2,2-dimethyl-3-(3-(2-(2,6,6-trimethylcyclohex-1-enyl)vinyl)phenyl)propylcarbamate | 0.19 mmol, 0.0809 g | OC(C(CNC(OC(C)(C)C)=O)(C)C)C1=CC(=CC=C1)\C=C\C1=C(CCCC1(C)C)C | C27H41NO3
reactant | pyridinium chlorochromate | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
product | (E)-tert-butyl 2,2-dimethyl-3-oxo-3-(3-(2-(2,6,6-trimethylcyclohex-1-enyl)vinyl)phenyl)propylcarbamate | CC(CNC(OC(C)(C)C)=O)(C(C1=CC(=CC=C1)\C=C\C1=C(CCCC1(C)C)C)=O)C | C27H39NO3
